US05200111
0.68 g of 55% sodium hydride was mixed with 10 ml of dimethylformamide. A solution of 2.50 g of 4-(4'-cyanophenyl)phenol in 5 ml of dimethylforamide was added dropwise thereto under ice-cooling. Then the obtained mixture was stirred at room temperature for one hour. A solution of 3.7 g of monotosylate of (R,R)-2,4-pentanediol in 5 ml of dimethylforamide was added dropwise thereto and the obtained mixture was stirred at 80° C. for two hours. After cooling, the reaction mixture was poured into 100 ml of ice-water and extracted with diethyl ether. After washing with water, drying and desolvating, the obtained residue was purified by silica gel column chromatography with the use of a mixture of n-hexane and ethyl acetate (3:2) as a developing solvent. Thus 1.8 g of (R,S)-4-[4'-(3"-hydroxy-1"-methylbutoxy)phenyl]benzonitrile was obtained.

reactant | sodium hydride | 0.68 g | [H-].[Na+]
reactant | 4-(4'-cyanophenyl)phenol | 2.50 g | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H9NO
reactant | monotosylate | 3.7 g | CC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | (R,R)-2,4-pentanediol | C[C@H](C[C@@H](C)O)O | C5H12O2
solvent | dimethylforamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylforamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (R,S)-4-[4'-(3"-hydroxy-1"-methylbutoxy)phenyl]benzonitrile | 1.8 g | O[C@H](C[C@H](OC1=CC=C(C=C1)C1=CC=C(C#N)C=C1)C)C | C18H19NO2
